US07807672B2
Preparation of 3-piperazin-1-yl-benzoic acid methyl ester
To a mixture containing piperazine-1-carboxylic acid tert-butyl ester (400 mg, 2.16 mmol), 3-bromo-benzoic acid methyl ester (547 mg, 2.56 mmol), Pd(AcO) (32 mg, 0.14 mmol), 2-(di-t-butylphosphino)biphenyl (80 mg, 0.28 mmol) and sodium t-butoxide (400 mg, 4 mmol) in toluene (20 mL) was degassed with Ar. The reaction mixture was heated at 50 C for overnight. At the end of reaction, ethyl acetate was added and the mixture was filter through celite. After removal of solvent, TFA was added to the residue. The reaction mixture was stirred at ambient temperature for 1 hour. The excess TFA was removed under vacuum and the residue was purified using prep-HPLC to give desired product (250 mg, 37% yield for two steps) as TFA salt.

reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.16 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3-bromo-benzoic acid methyl ester | 2.56 mmol, 547 mg | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | 2-(di-t-butylphosphino)biphenyl | 0.28 mmol, 80 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 4 mmol, 400 mg | CC(C)([O-])C.[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-piperazin-1-yl-benzoic acid methyl ester | 250 mg, 37% yield | COC(C1=CC(=CC=C1)N1CCNCC1)=O | C12H16N2O2
